US07196090B2
Methyl 4-(benzylamino)-2,3,5,6-tetrafluorobenzoate (24.0 g, 76.6 mmol) was cooled to 5° C.–10° C. under a nitrogen atmosphere and a 25 weight % solution of sodium methoxide in methanol (53.5 mL, 234 mmol) was added dropwise over 5 minutes with continued cooling. The resulting mixture was stirred with ice bath cooling for another 10 minutes, the ice bath was removed and the mixture allowed to warm to 35° C.–40° C. It was recooled to room temperature and held for 4.5 hours before heating to 65° C.–70° C. where it was held for 3.5 hours. The mixture was cooled to room temperature and held overnight. Acetic acid (7.5 g) was added followed by methyl tert-butyl ether (250 mL) and water (100 mL). The lower aqueous layer was separated and the organic layer extracted with saturated, aqueous sodium bicarbonate solution (2×50 mL) followed by water (25 mL). The organic solution was concentrated under vacuum to give methyl 4-(benzylamino)-3,5-difluoro-2,6-dimethoxybenzoate as a yellow oil (24.5 g).

reactant | Methyl 4-(benzylamino)-2,3,5,6-tetrafluorobenzoate | 76.6 mmol, 24.0 g | C(C1=CC=CC=C1)NC1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C15H11F4NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 234 mmol, 53.5 mL | CO | CH4O
product | methyl 4-(benzylamino)-3,5-difluoro-2,6-dimethoxybenzoate | 24.5 g | C(C1=CC=CC=C1)NC1=C(C(=C(C(=O)OC)C(=C1F)OC)OC)F | C17H17F2NO4
